.include 22nm_MGK.pm


.param SUPPLY = 0.6
.global vdd gnd
* -------------------------INPUT LINES-------------------------
VinA a gnd PWL 0ns 0 10ns 0 11ns 'SUPPLY' 20ns 'SUPPLY' 21ns 0 30ns 0 31ns 'SUPPLY' 40ns 'SUPPLY' 41ns 0 50ns 0 51ns 'SUPPLY' 60ns 'SUPPLY' 61ns 0 70ns 0 71ns 'SUPPLY' 80ns 'SUPPLY' DC 'SUPPLY'
VinB b gnd PWL 0ns 0 20ns 0 21ns 'SUPPLY' 40ns 'SUPPLY' 41ns 0 60ns 0 61ns 'SUPPLY' 80ns 'SUPPLY' DC 'SUPPLY'
VinC c gnd PWL 0ns 0 40ns 0 41ns 'SUPPLY' 80ns 'SUPPLY' DC 'SUPPLY'

* ----------------------CALLING THE CUBCIRCUIT-----------------
X1 a b c n_sum n_carry gnd FullAdder


.control
tran 10NS 80NS
plot v(a) v(b) v(c)


plot v(n_sum)
plot v(n_carry)
.endc
.end
